US04611023
4,4-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)-2,6,8-trimethylnonane
The procedure of Example 1 is repeated using 9.22 grams of 2,6,8-trimethylnonan-4-one, 23.84 grams of 2,6-di-tert-butyl-4-mercaptophenol, and 150 ml of methyl alcohol. The product is purified by flask chromatography to give a clear syrup whose proton NMR spectrum is consistent with the desired structure.

reactant | 2,6,8-trimethylnonan-4-one | 9.22 grams | CC(C)CC(CC(CC(C)C)C)=O | C12H24O
reactant | 2,6-di-tert-butyl-4-mercaptophenol | 23.84 grams | C(C)(C)(C)C1=C(C(=CC(=C1)S)C(C)(C)C)O | C14H22OS
solvent | methyl alcohol | 150 ml | CO | CH4O
product | 4,4-Bis(3,5-di-tert-butyl-4-hydroxyphenylthio)-2,6,8-trimethylnonane | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(CC(C)C)(CC(CC(C)C)C)SC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C40H66O2S2
